US04271152
1. Z-Lys(Boc)-Ser-Gln-Thr-Pro-Leu-Val-Thr-Leu-OtBu
1.35 g Z-Lys(Boc)-ONp (2.7 mmol) and 2.42 g (2.64 mmol) H-Ser-Gln-Thr-Pro-Leu-Val-Thr-Leu-OtBu (F. 1) are dissolved in 35 ml DMF. After stirring at room temperature for 18 hours the reaction mixture is evaporated to dryness.

reactant | Z-Lys(Boc)-ONp | 2.7 mmol, 1.35 g | CC(C)(C)OC(=O)NCCCC[C@@H](C(=O)OC1=CC=C(C=C1)[N+](=O)[O-])NC(=O)OCC2=CC=CC=C2 | C25H31N3O8
reactant | H-Ser-Gln-Thr-Pro-Leu-Val-Thr-Leu-OtBu | 2.64 mmol, 2.42 g | N[C@@H](CO)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H]([C@H](O)C)C(=O)N1[C@H](C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C)CCC1 | C42H75N9O13
solvent | DMF | 35 ml | CN(C)C=O | C3H7NO
product | Z-Lys(Boc)-Ser-Gln-Thr-Pro-Leu-Val-Thr-Leu-OtBu | N([C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)N[C@@H](CO)C(=O)N[C@@H](CCC(N)=O)C(=O)N[C@@H]([C@H](O)C)C(=O)N1[C@H](C(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H]([C@H](O)C)C(=O)N[C@@H](CC(C)C)C(=O)OC(C)(C)C)CCC1)C(=O)OCC1=CC=CC=C1 | C61H101N11O18
